US04558043
A mixture of 14.2 g (82 mmole) of 4-chloro-3-nitrophenol, 12.4 g (90 mmole) of ground potassium carbonate, 8.2 g (55 mmole) of sodium iodide, 8.3 g (90 mmole) of chloroacetone and 220 ml of dimethylformamide is stirred for 3 hours at room temperature. The whole is subsequently filtered, the residue is washed with dimethylformamide, the organic phase is concentrated by evaporation in vacuo and the resulting crude product is partitioned between water and methylene chloride. The solid remaining after drying and removal of the methylene chloride is recrystallised from methylene chloride/petroleum ether. 1-(4-chloro-3-nitrophenoxy)-2-propanone is obtained having a melting point of 92°-94°.

reactant | 4-chloro-3-nitrophenol | 82 mmole, 14.2 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 55 mmole, 8.2 g | [I-].[Na+]
reactant | chloroacetone | 90 mmole, 8.3 g | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | 1-(4-chloro-3-nitrophenoxy)-2-propanone | ClC1=C(C=C(OCC(C)=O)C=C1)[N+](=O)[O-] | C9H8ClNO4
